US07560558B2
4-Chloro-6,7-dimethoxyquinoline (252 mg), 2,3-dihydroxypyridine (396 mg), and 4-dimethylaminopyridine (400 mg) were suspended in o-dichlorobenzene (13 ml), and the suspension was stirred at 160° C. overnight. The reaction solution was cooled to room temperature, the solvent was then removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give 6,7-dimethoxy-4-(2-hydroxy-pyridin-3-yloxy)-quinoline (84 mg, yield 25%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 252 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2,3-dihydroxypyridine | 396 mg | OC1=NC=CC=C1O | C5H5NO2
catalyst | 4-dimethylaminopyridine | 400 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 13 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6,7-dimethoxy-4-(2-hydroxy-pyridin-3-yloxy)-quinoline | 84 mg, yield 25% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC=CC1)O | C16H14N2O4
